US07273868B2
To a solution of N-carbobenzoxy-2-methoxymethoxymethylpyrrolidine (prepared in the above (2)) 3.9 g in methanol 80 ml is added palladium-carbon 1 g at argon atmosphere. Hydrogen gas is blown through the mixture and the mixture is stirred at room temperature for 3 hours. After reaction catalyst is removed by filtration and the filtrate is concentrated in vacuo to give 2-methoxymethoxymethylpyrrolidine 2.02 g.

reactant | N-carbobenzoxy-2-methoxymethoxymethylpyrrolidine | C(=O)(OCC1=CC=CC=C1)N1C(CCC1)COCOC | C15H21NO4
reactant | Hydrogen | [H][H] | H2
solvent | methanol | 80 ml | CO | CH4O
catalyst | palladium-carbon | 1 g | [C].[Pd]
product | 2-methoxymethoxymethylpyrrolidine | 2.02 g | COCOCC1NCCC1 | C7H15NO2
